US05756736
Preparation of N-trityl-2-(2-Amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-3-trityloxy-propan-1-ol
2-(2-Amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-1,3-propanediol (ganciclovir) was bis-tritylated at the N and O functionalities as follows: to a slurry of 4.1 kg ganciclovir, 9.5 g DMAP, and 8.65 kg TEA in dimethylformamide (38.3 kg ) at 50° C. was added a solution of 11.9 kg trityl-chloride in 38.2 kg dimethylformamide over 25 minutes. The reaction mixture was heated and stirred at 50° C. overnight. The following morning the reaction was complete by HPLC. This yields a mixture of N-trityl-ganciclovir, O-trityl-ganciclovir, N,O-bis-trityl-ganciclovir, and tris-trityl-ganciclovir in a approximate ratio of mono to bis to tri-substituted ganciclovir of 1:2:1. The tris-trityl-ganciclovir which is dimethylformamide insoluble is then filtered from the dimethylformamide mixture by cooling the reaction mixture to 10° C. and filtering out the tris-trityl-ganciclovir. The tris-tritylated-ganciclovir was washed with 10 kg dimethylformamide, and the transfer lines were washed with 2.3 kg dimethylformamide. The mono- and bis-tritylated-ganciclovir were then precipitated from this dimethylformamide solution by warming the bistrityl-ganciclovir/monotrityl-ganciclovir/dimethylformamide solution to 20° C. and adding 90 kg water over 1 hour. An additional 60 kg water was then added. Some purification of the bistrityl-ganciclovir from the monotrityl-ganciclovir occurs at this point. The temperature of the above mixture rose to 32° C. The mixture was seeded with 0.5 g of N,O-bistrityl-ganciclovir and allowed to age overnight at room temperature. The following morning crystals had formed. The solid was filtered out. Further purification of the bis-trityl-ganciclovir was achieved by washing the solid with 50 kg of water and then with 21 kg of ethyl acetate. The solid was dried under a stream of nitrogen overnight and then in a vacuum oven (~50° C., ~650 millitorr, nitrogen sweep) for 4 days. Yield: 63.2%. Weight: 7.51 kg. HPLC: greater than 90% N,O-bistrityl-ganciclovir, impurities 1.8%.

reactant | 2-(2-Amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-1,3-propanediol | NC=1NC(C=2N=CN(C2N1)COC(CO)CO)=O | C9H13N5O4
reactant | ganciclovir | 4.1 kg | C1=NC2=C(N1COC(CO)CO)N=C(N=C2O)N | C9H13N5O4
reactant | trityl-chloride | 11.9 kg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
catalyst | DMAP | 9.5 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dimethylformamide | 38.3 kg | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 38.2 kg | CN(C=O)C | C3H7NO
product | N-trityl-2-(2-Amino-1,6-dihydro-6-oxo-purin-9-yl)methoxy-3-trityloxy-propan-1-ol | Yield: 63.2% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=2N(C=NC2C1=O)COC(CO)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N | C47H41N5O4
